US07253196B2
1-Cyclooctylthiourea
A mixture of 1-benzoyl-3-cyclooctylthiourea (14.3 g, 49.1 mmol) and potassium carbonate (34.6 g, 250 mmol) in methanol (200 mL), water (100 mL), and THF (100 mL) was stirred at ambient temperature overnight. The low boiling solvents were removed in vacuo, and the residue was partitioned between EtOAc and water. The organic portion was washed with brine, and concentrated in vacuo. The title compound was obtained as a white solid after flash column chromatography (0 to 100% of ethyl acetate in hexanes). MS m/z: 187.1 (M+H)+.

reactant | 1-benzoyl-3-cyclooctylthiourea | 49.1 mmol, 14.3 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1CCCCCCC1 | C16H22N2OS
reactant | potassium carbonate | 250 mmol, 34.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 1-Cyclooctylthiourea | C1(CCCCCCC1)NC(=S)N | C9H18N2S
